Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ace Inhibitors / Lipitor
 
Attending: ___.
 
Chief Complaint:
L breast rash
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
___ F with DM, HTN, NHL s/p radiation with rituxan treatment 
presenting with 2 weeks of worsening chest rash. Had a 
mechanical fall one week after rash started in which she thought 
she may have had some trauma to area of rash. Rash started as an 
erythematous rash on the upper outer quadrant of the breast and 
has spread to involve the entire breast, extending into the 
axilla, and proximally to her shoulder. She notes a hardened 
area where the redness first began. The rash is warm to the 
touch, non pruritic and non painful except for some soreness 
over the area where the rash began with deep palpation. Denies 
fevers or chills. No other rashes. Loss of R ___ toe nail, no 
drainage or redness. No other systemic symptoms.  
.  
In ED, 98.4, 68, 152/64, 18, 98% on RA. Looked spreading rash on 
left breast, erythematous, warm, blanching, with edema and 
causing her sharp pain. No subjective fever. In ED, given one 
dose of IV unasyn given h/o of DM, zoster. Patient notes that 
this feels like zoster but not in dermatomes, looks like 
cellultis. Spoke to oncologist NP in ED, and felt that this was 
low risk of cancer at etiology of rash. BCx taken prior to Abx, 
afebrile, no leukocytosis.  

 
Past Medical History:
Hypertension  
-Diabetes- diet controlled  
-CAD c/ stent in ___  
-Non-hodgkins lymphoma - s/p radiation and rituxan, to start 
another course of 4 treatments with rituxan in ___  
-PVD- worse on the right  
-Spinal stenosis  
-Recurrent herpes zoster c/ post herpetic neuralgia  
-atrophic right kidney- baseline cr 1.6-1.8  
-R knee osteoarthritis  

 
Social History:
___
Family History:
Her mother had hypertension and diabetes, diagnosed at ___ years 
old. Her sister had diabetes in her ___. Both deceased. 
 
Physical Exam:
Admission PE:
T:97.9 BP:160/82 HR:74 RR:26 O2 99% RA  
Gen: Pleasant, well appearing female in no acute distress  
HEENT: NCAT, PERRL, EOMI. No icterus. MMM. OP clear. CN ___ 
intact  
NECK: Supple  
Lymph: No cervical, axillary, or supraclavicular 
lymphadenopathy.  
CV: RRR. nl S1, S2. No murmurs, rubs ___  
Breast: L breast erythema involving the entire breast extending 
from the clavicle to the base of the breast, and from the 
midline to midaxillary line. In RUQ area of induration vs. skin 
thickening. No fluctuance or tenderness to palpation. No skin 
lesions or abrasions. No skin dimpling or nipple discharge.  
LUNGS: CTAB, good BS ___, No W/R/C  
ABD:Soft, NT, ND. +BS  
EXT: warm, trace edema bilaterally, DP pulses not palpated. R 
second toe with missing toe nail. No drainage.  
SKIN: L breast erythema, otherwise no rashes.  
NEURO: A&Ox3. Appropriate. Preserved sensation throughout. ___ 
strength throughout. Intact ___ proprioception.  
PSYCH: Listens and responds to questions appropriately, pleasant 
 

 
Pertinent Results:
___ 02:55PM   WBC-9.0 RBC-4.38 HGB-12.1 HCT-36.1 MCV-82 
MCH-27.5 MCHC-33.5 RDW-13.3
___ 02:55PM   NEUTS-87.4* LYMPHS-5.4* MONOS-5.5 EOS-1.3 
BASOS-0.5
___ 02:55PM   PLT COUNT-239
___ 02:55PM   GLUCOSE-186* UREA N-53* CREAT-1.6* SODIUM-142 
POTASSIUM-4.7 CHLORIDE-109* TOTAL CO2-21* ANION GAP-17
___ 03:04PM   LACTATE-1.3
___ 03:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 03:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___

BCx (___): NGTD

 
Brief Hospital Course:
___ F with DM, HTN, NHL on ___ recurrence on rituxan presenting 
with 2 weeks of worsening chest rash consistent with cellulitis. 
 
.  
# Rash. 2 weeks of worsening erythematous, non painful rash c/ 
central area of skin thickening vs. induration involving the L 
breast. Concern for cellulitis vs recurrent NHL or inflammatory 
breast CA. No fevers or chills. Wbc 9.0. Lactate 1.3. Given one 
dose of IV unasyn in ED. Thickened area may also be ___ 
radiation changes as pt with h/o radiation to breast for NHL. 
Lymphoma previously presented in breast, but unlike current 
presentation. Also concern for inflammtory breast ca given h/o 
radiation, central area concerning for skin thickening c/ non 
painful involvement of entire L breast. No lymphadenopathy or 
breast lumps. Last mammogram in ___. Patient with 
history of zoster, however unlikely as no lesions and non 
dermatomal pattern. Patient was started on vancomycin for 
possible cellulitis on ___ and her rash improved on this. 
She was transitioned to PO keflex and rash continued to improve. 
Patient was discharged to finish 7 day course of PO keflex and 
follow up with PCP. BCx remained NGTD.
.  
#Hypertension: Patient continued HCTZ, nifedipine, toprol, and 
valsartan  
.  
#CAD. s/p stent ___: Patient continued ___  
.  
#NHL. s/p radiation and rituxan. To start another course of 
rituxan in ___. Oncologist at ___: ___.  
.  
#Diabetes- diet controlled. Patient continued on diabetic diet   

.  
#CRF- baseline cr 1.6-1.8. Stable on admission (1.6).   
.  
# FEN: cardiac, diabetic diet  

 
Medications on Admission:
-___ 75 mg daily  
-Hydrochlorothiazide 25 mg daily  
-Nifedipine 60 mg daily  
-Toprol-XL 25 mg daily  
-Valsartan 320 mg daily  
-Simvastatin 20 mg daily  
-Aspirin 325 mg daily.  

 
Discharge Medications:
1. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).  
3. Nifedipine 60 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO DAILY (Daily).  
4. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
5. Valsartan 160 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
6. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
7. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
8. Cephalexin 500 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours) for 7 days.
Disp:*21 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Cellulitis
Secondary Diagnosis:
Hypertension
CAD s/p stent
MALT Lymphoma
DM2
CRF, stable

 
Discharge Condition:
Stable. Afebrile. Improving erythema. 

 
Discharge Instructions:
You were admitted to the hospital for a rash of your left 
breast. You were treated with antibiotics for a rash secondary 
to a skin infection. Your rash improved while on IV antibiotics. 
You were switched to PO antibiotics prior to your discharge and 
the infection continued to improve. Please take your antibiotic 
Keflex as directed. You should follow up with Dr. ___ in 
clinic on ___.

No other changes were made to your medications. Please continue 
to take your home medications as directed. 

Return to the ER or call your primary care physician for 
worsening redness, pain, swelling, skin dimpling, nipple 
discharge, fevers, chills, swollen lymph nodes, or any other 
concerning symptoms. 
 
Followup Instructions:
___